US07547691B2
(C). Preparation of [4-(7-chlorobenzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine
Using the method of [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride, the title compound is prepared from 2-chloro-4-(7-chlorobenzo[b]thiophen-2-yl)pyrimidine and 1-(3-aminopropyl)-4-methylpiperazine and isolated as a solid. ES+(m/z) 402 (35Cl) and 404 (37Cl) [M+H].

reactant | [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride | Cl.Cl.Cl.S1C2=C(C=C1C1=NC(=NC=C1)NCCCN1CCN(CC1)C)C=CC=C2
reactant | 2-chloro-4-(7-chlorobenzo[b]thiophen-2-yl)pyrimidine | ClC1=NC=CC(=N1)C1=CC2=C(S1)C(=CC=C2)Cl | C12H6Cl2N2S
reactant | 1-(3-aminopropyl)-4-methylpiperazine | NCCCN1CCN(CC1)C | C8H19N3
product | [4-(7-chlorobenzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine | ClC1=CC=CC2=C1SC(=C2)C2=NC(=NC=C2)NCCCN2CCN(CC2)C | C20H24ClN5S
